US06174901B1
Step A: Preparation of 4-acetoxy-3-pyridine-4-yl-4-m-tolyl-cyclopent-2-en-1-one:
To a solution of 4-hydroxy-4-pyridine-4-yl-3-m-tolyl-cyclopent-2-en-1-one, and it's regioisomer 4-hydroxy-3-pyridine-4-y1-4-m-toly1-cyclopent-2-en-1-one prepared as described in Example 8, Step E (265 mg, 1.0 mmole) in methylene chloride (5 mL) was added dimethylamino pyridine (183 mg, 1.5 mmole) and acetic anhydride (0.12 mL, 1.2 mmole) at r.t. The reaction mixture was stirred at that temperature for 1 hr before quenching the reaction with 1 mL of methanol. Concentration and purification (silica, hexane/ethyl acetate) gave the title compound as the slower eluting isomer. MS (m/z): Calcd. C19H17NO3(M+): 307, found (M+H) +: 308.1.

reactant | 4-hydroxy-4-pyridine-4-yl-3-m-tolyl-cyclopent-2-en-1-one | OC1(C(=CC(C1)=O)C=1C=C(C=CC1)C)C1=CC=NC=C1 | C17H15NO2
reactant | 4-hydroxy-3-pyridine-4-y1-4-m-toly1-cyclopent-2-en-1-one | OC1(C(=CC(C1)=O)C1=CC=NC=C1)C=1C=C(C=CC1)C | C17H15NO2
reactant | dimethylamino pyridine | 1.5 mmole, 183 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 1.2 mmole, 0.12 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-acetoxy-3-pyridine-4-yl-4-m-tolyl-cyclopent-2-en-1-one | C(C)(=O)OC1(C(=CC(C1)=O)C1=CC=NC=C1)C=1C=C(C=CC1)C | C19H17NO3
